US08614234B2
To a stirred solution of ethyl 4-{[(5-{4-[3-fluoro-4-({[(2-fluoro-5-methylphenyl)amino]carbonyl}amino)phenoxy]pyridin-2-yl}-1H-pyrrol-3-yl)carbonyl]amino}butanoate (45 mg, 0.078 mmol) in 10 ml of THF was added 3 ml of 1M NaOH (3.0 mmol). The mixture was heated at 60° C. for 3 hours, cooled to room temperature and poured into 100 ml of water. 2M HCl was added until pH=5. The precipitates were filtered, washed with water, and dried to give 4-{[(5-{4-[3-fluoro-4-({[(2-fluoro-5-methylphenyl)amino]carbonyl}amino)phenoxy]pyridin-2-yl}-1H-pyrrol-3-yl)carbonyl]amino}butanoic acid as grey solid. Yield: 40 mg, 93%.

reactant | ethyl 4-{[(5-{4-[3-fluoro-4-({[(2-fluoro-5-methylphenyl)amino]carbonyl}amino)phenoxy]pyridin-2-yl}-1H-pyrrol-3-yl)carbonyl]amino}butanoate | 0.078 mmol, 45 mg | FC=1C=C(OC2=CC(=NC=C2)C2=CC(=CN2)C(=O)NCCCC(=O)OCC)C=CC1NC(=O)NC1=C(C=CC(=C1)C)F | C30H29F2N5O5
reactant | NaOH | 3.0 mmol, 1M, 3 ml | [OH-].[Na+]
reactant | water | 100 ml | O | H2O
reactant | HCl | 2M | Cl | ClH
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 4-{[(5-{4-[3-fluoro-4-({[(2-fluoro-5-methylphenyl)amino]carbonyl}amino)phenoxy]pyridin-2-yl}-1H-pyrrol-3-yl)carbonyl]amino}butanoic acid | FC=1C=C(OC2=CC(=NC=C2)C2=CC(=CN2)C(=O)NCCCC(=O)O)C=CC1NC(=O)NC1=C(C=CC(=C1)C)F | C28H25F2N5O5
